US07625880B2
Bromomethyl-cyclopropane (26.00 g, 0.193 mol) was added to triisopropyl phosphite (35.9 mL, 0.30 mol) at ambient temperature, under a nitrogen atmosphere. The resulting solution was stirred and heated at reflux (144° C. bath temperature) overnight. The reaction mixture was allowed to cool to ambient temperature and then ethyl acetate (350 mL) was added. The solution was washed with saturated sodium bicarbonate (350 mL) and then with saturated brine (2×350 mL). The organic phase was dried with magnesium sulfate, filtered, and concentrated by rotary evaporation and then under high vacuum to yield 39.96 g of cyclopropylmethyl-phosphonic acid diisopropyl ester (0.182 mol, 94% yield) as a colorless oil. 1H NMR (400 MHz, DMSO) δ 4.63-4.54 (m, 2H); 1.67-1.60 (d of d, 2H) 1.27-1.24 (d of d, 12H); 0.85-0.75 (m, 1H); 0.52-0.46 (m, 2H); 0.21-0.16 (m, 2H); ESMS (m/z): M+1)+ found, 221; (M+23)+ found, 243.

reactant | Bromomethyl-cyclopropane | 0.193 mol, 26.00 g | BrCC1CC1 | C4H7Br
reactant | triisopropyl phosphite | 0.30 mol, 35.9 mL | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | cyclopropylmethyl-phosphonic acid diisopropyl ester | 0.182 mol, 39.96 g, 94% yield | C(C)(C)OP(OC(C)C)(=O)CC1CC1 | C10H21O3P
